data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_436781_1,[C:1]([C:3]([N:2]([C:4](=[C:5]([H:12])[H:13])[H:8])[H:7])=[O:6])([H:9])([H:10])[H:11]>>[C:1]([C:3]([C:5](/[C:4](=[N:2]/[H:7])[H:8])([H:12])[H:13])=[O:6])([H:9])([H:10])[H:11],59.77439499996507
MR_191039_1,[C@:1]([C:3]([H:15])([H:16])[H:17])([O:7][C:2]([H:12])([H:13])[H:14])(/[N:8]=[C:5](/[C:4]([H:18])([H:19])[H:20])[N:6]([H:10])[H:11])[H:9]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[N:8]/[C@:5]([C:4]([H:18])([H:19])[H:20])([N:6]([H:10])[H:11])[O:7][C:2]([H:12])([H:13])[H:14])[H:9],53.62614999997177
MR_76833_0,[C:1](=[C:2]([N:5]([H:12])[H:13])[C:6](=[O:7])[H:14])([N:3]([H:8])[H:9])[N:4]([H:10])[H:11]>>[C:1]1([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[C:2]([N:5]([H:12])[H:13])=[C:6]([H:14])[O:7]1,46.15262500000725
MR_690913_0,[C:1]1([C:3]([H:11])([H:12])[H:13])=[C:6]([C:5]([H:17])([H:18])[H:19])[N:8]([C:4]([H:14])([H:15])[H:16])[C:2]([H:9])([H:10])[O:7]1>>[C:1]1([C:3]([H:11])([H:12])[H:13])(/[C:6]([C:5]([H:17])([H:18])[H:19])=[N:8]/[C:4]([H:14])([H:15])[H:16])[C:2]([H:9])([H:10])[O:7]1,65.18720999999601
MR_426676_0,[C:1]([C:4]([H:17])([H:18])[H:19])([C:6]([C:3](/[C:2](=[N:7]/[H:13])[H:12])([H:15])[H:16])([C:5]([H:20])([H:21])[H:22])[O:9][H:14])([O:8][H:10])[H:11]>>[C:1]([C:2]([C:3]([C:6]([C:5]([H:20])([H:21])[H:22])=[O:9])([H:15])[H:16])([N:7]([H:13])[H:14])[H:12])([C:4]([H:17])([H:18])[H:19])([O:8][H:10])[H:11],60.48033250003755
MR_618258_2,[C:1](=[C:3]([H:10])[H:11])([O:5][C:2](=[C:4]([H:12])[H:13])[H:9])/[N:6]=[N:7]/[H:8]>>[C:1]([C:3]([C:2](=[C:4]([H:12])[H:13])[H:9])([H:10])[H:11])(=[O:5])/[N:6]=[N:7]/[H:8],67.69281750001909
MR_423390_1,[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:6](/[C:7]([C:4]([H:21])([H:22])[H:23])([N:5]([C:2]([H:15])([H:16])[H:17])[H:11])[O:9][H:10])[N:8]([H:13])[H:14])[H:12]>>[C:1]([C:3]([H:18])([H:19])[H:20])([N:5]([C:2]([H:15])([H:16])[H:17])[H:11])(/[C:6](=[C:7](\[C:4]([H:21])([H:22])[H:23])[O:9][H:10])[N:8]([H:13])[H:14])[H:12],68.64661750000081
MR_343778_1,[C@:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[N:8]/[N:4]([H:11])[H:12])([C:5](=[C:6]([H:17])[H:18])[H:13])([O:7][H:9])[H:10]>>[C@:1]1([O:7][H:9])([H:10])[C@@:3]([C:2]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:17])[H:18])[H:13])[N:8]1[N:4]([H:11])[H:12],73.06233500001667
MR_289356_1,[C:1]([N:3]([N:2](/[C:4]([N:7]([H:14])[H:15])=[N:8]\[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])[H:9])([H:16])([H:17])[H:18]>>[C:1]([N:3]([C:4]1([N:7]([H:14])[H:15])[N:2]([N:5]([H:10])[H:11])[N:8]1[N:6]([H:12])[H:13])[H:9])([H:16])([H:17])[H:18],50.02430000000558
MR_238232_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([H:7])[H:8])([N:4]([H:9])[H:10])[C:5](=[C:6]([H:15])[H:16])[H:11]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:3]([H:7])[H:8])[C:5]([N:4]([H:9])[H:10])([H:11])[C:6]1([H:15])[H:16],69.42659999999336
MR_687798_0,[C@:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])([O:6][H:8])(/[N:7]=[C:5](\[N:4]([H:11])[H:12])[H:13])[H:10]>>[C:1](\[O:6][H:8])(=[N:7]\[C@@:5]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])([N:4]([H:11])[H:12])[H:13])[H:10],47.36307249998305
MR_50002_1,[C:1]([C:3]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])([O:8][C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])=[O:7])[H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])([O:7][C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])=[O:8])[H:9],28.390610000051453
MR_163272_0,[C:1]([N:2]([H:6])[H:7])([N:4]=[C:3]([H:8])[H:9])=[O:5]>>[C:1]1([N:2]([H:6])[H:7])=[N:4][C:3]([H:8])([H:9])[O:5]1,45.082109999999176
MR_542814_1,[C:1]([N:3]([N:4]([O:6][H:8])[H:9])/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:5](\[C:2]([H:14])([H:15])[H:16])[N:7]([N:4]([O:6][H:8])[H:9])[H:10])([H:11])([H:12])[H:13],67.28807999997088
MR_237226_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([C:4]([O:7][H:10])=[O:8])[O:5][O:6][H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])[C:4]([O:5][O:6][H:9])([O:7][H:10])[O:8]1,63.23693999999762
MR_56676_1,[C@:1]([C:3]([H:16])([H:17])[H:18])([C@:6]1([H:14])[C@@:2]([N:5]([H:12])[H:13])([H:11])[C@:7]1([C:4]([H:19])([H:20])[H:21])[H:15])([O:8][H:9])[H:10]>>[C:1]([C:2]([N:5]([H:12])[H:13])(/[C:6](=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:15])[H:14])[H:11])([C:3]([H:16])([H:17])[H:18])([O:8][H:9])[H:10],71.63414499998424
MR_354424_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])([C:5](=[O:8])[H:11])/[C:6](=[C:7](/[N:4]([H:9])[H:10])[H:13])[H:12]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])=[C:6]([C@@:7]([N:4]([H:9])[H:10])([C:5](=[O:8])[H:11])[H:13])[H:12],64.2522350000381
MR_400139_1,[C:1](/[C:4](=[C:6](\[O:7][H:9])[H:10])[N:8]=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[N:8][C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[C:6]1([O:7][H:9])[H:10])([H:11])([H:12])[H:13],33.388647499988195
MR_225520_2,[N:1]([C:2]([O:5][H:9])=[O:6])([C:3](=[O:7])[H:10])[O:4][H:8]>>[N:1](=[C:2](/[O:5][H:9])[O:6][C:3](=[O:7])[H:10])\[O:4][H:8],69.13230249998733
